US06403586B1
(2) Preparation of 4-Methoxycarbonyl-6-(4-methoxyphenyl)-2-[4-(methylthio)phenylcarbamoylmethyl]-2H-pyridazin-3-one
Using 4-methoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one and 2-bromo-4′-(methylthio)acetanilide as starting materials, the procedures of Example 1 were repeated likewise, whereby the title compound was obtained in a yield of 90.0%.

reactant | 4-methoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one | COC(=O)C=1C(NN=C(C1)C1=CC=C(C=C1)OC)=O | C13H12N2O4
reactant | 2-bromo-4′-(methylthio)acetanilide | BrCC(=O)NC1=CC=C(C=C1)SC | C9H10BrNOS
product | 4-Methoxycarbonyl-6-(4-methoxyphenyl)-2-[4-(methylthio)phenylcarbamoylmethyl]-2H-pyridazin-3-one | yield of 90.0% | COC(=O)C=1C(N(N=C(C1)C1=CC=C(C=C1)OC)CC(NC1=CC=C(C=C1)SC)=O)=O | C22H21N3O5S
